US09035062B2
(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (F1-2), Synthesis from (F1-3a)
To a solution of 100 mg (0.345 mmol) of (2S,5R)-methyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate in tetrahydrofuran (3 mL) was added water (3 mL), followed by cooling to 0° C., and 15.2 mg (0.362 mmol) of lithium hydroxide monohydrate was added, followed by stifling at the same temperature for 15 minutes. The reaction mixture was washed with ethyl acetate, and the aqueous layer was made acidic with saturated aqueous sodium dihydrogen phosphate solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and subsequently the solvent was concentrated under reduced pressure to afford 93.1 mg of the title compound as a colorless foamy solid (yield 98%). Instrumental data were consistent with those of Example 9.

reactant | (2S,5R)-methyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 0.345 mmol, 100 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OC | C15H18N2O4
reactant | water | 3 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.362 mmol, 15.2 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 93.1 mg, yield 98% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
